US04448962
A mixture of 1-methyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid 0.85 g (3.3 millimole) and piperazine hexahydrate 10 g (50 millimole) was heated in a sealed tube at 125°-135° C. (inner temperature) for 22 hours. After cooling, the reaction mixture was evaporated under vacuum. The residue was acidified with acetic acid and the insoluble matters were removed by filtration. The filtrate was neutralized with an aqueous solution of caustic soda. The precipitated crystals were collected by filtration, washed with water and dried. The crystals were dissolved in hot diluted hydrochloric acid, reprecipitated with the addition of ethanol, collected by filtration and dried. Recrystallizing the crystals from a mixed solution of water and ethanol, 0.45 g (40%) of 1-methyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride was obtained. Colorless powders.

reactant | 1-methyl-6-fluoro-7-chloro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.3 millimole, 0.85 g | CN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C11H7ClFNO3
reactant | piperazine hexahydrate | 50 millimole, 10 g | O.O.O.O.O.O.N1CCNCC1
product | 1-methyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride | 0.45 g, 40% | Cl.CN1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | InChI=1S/C15H16FN3O3.ClH/c1-18-8-10(15(21)22)14(20)9-6-11(16)13(7-12(9)18)19-4-2-17-3-5-19;/h6-8,17H,2-5H2,1H3,(H,21,22);1H
